US04146718
2,3,4-Trichloronitrobenzene
A 12 liter resin pot equipped with an efficient mechanical stirrer and a thermometer was charged with 90% (sp. gr. 1.4826) nitric acid (3.6 liters). An iced-water bath was used to keep the temperature between 25° and 30° while 1,2,3-trichlorobenzene (1.89 kg, 10.4 mol) was added in portions over 30 minutes. The resulting mixture was stirred for 30 minutes and then poured into a 9.5 liter battery jar equipped with an efficient stirrer and containing about 5 kg of ice. The resulting solid was filtered off and washed well with water.

reactant | 1,2,3-trichlorobenzene | 10.4 mol, 1.89 kg | ClC1=C(C(=CC=C1)Cl)Cl | C6H3Cl3
reactant | nitric acid | 3.6 liters | [N+](=O)(O)[O-] | HNO3
product | 2,3,4-Trichloronitrobenzene | ClC1=C(C=CC(=C1Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
